US05098587
A solution of propylene glycol borate in xylene is prepared by heating at 50° C. while stirring a mixture of 46.4 g propylene glycol, 41 g boric acid and 300 ml xylene. The water formed is eliminated by azeotropic distillation. There are obtained 314 g of a solution with 2.6% boron; in the reactor described above in Example 1 there are introduced 34.6 g of the propylene glycol borate solution, 16.61 g C16 -alkyl benzene sulfonic acid with 96% of active matter and a molecular weight of 430, 24.4 g diluent oil, 112 ml xylene, 7 ml methanol and 23.8 g slaked lime with a purity of 99%.

reactant | propylene glycol | 46.4 g | C(C(C)O)O | C3H8O2
reactant | boric acid | 41 g | B(O)(O)O | BH3O3
reactant | water | O | H2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | propylene glycol borate | B(O)(O)O.C(C(C)O)O | InChI=1S/C3H8O2.BH3O3/c1-3(5)2-4;2-1(3)4/h3-5H,2H2,1H3;2-4H
